### PR TITLE
[Merged by Bors] - feat(Data/Nat/Choose/Multinomial): add positivity support

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR adds `positivity` tactic support for `Multiset.multinomial`, by adding a `_pos` theorem and an extension.

This was done as a part of Project Numina's LeanTriathlon project. AI was used as an assistant in the creation of this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Multinomial.lean [hunk 1]
```diff
@@ -501,4 +501,28 @@ theorem multinomial_nsmul_singleton (k n : ℕ) :
...
   simp [multinomial_nsmul]
 
+theorem multinomial_pos (m : Multiset ℕ) : 0 < m.multinomial := by
+  induction m using Multiset.induction_on with
+  | empty => simp
+  | cons x m h =>
+    simp only [multinomial_cons, h, mul_pos_iff_of_pos_right]
+    exact Nat.choose_pos (Nat.le_add_right x m.sum)
+
+public meta section PositivityExtension
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Multinomial.lean]:
```suggestion
section PositivityExtension
```

I believe the `meta` is overkill when the `def` inside is already tagged `meta`. Only one is needed.

Further, the entire file is in a `public` section already, so `public` here should be a no-op

File: Mathlib/Data/Nat/Choose/Multinomial.lean [hunk 2]
```diff
@@ -501,4 +501,28 @@ theorem multinomial_nsmul_singleton (k n : ℕ) :
...
+
+open Lean Meta Mathlib Meta Positivity Qq
+
```
Comment (joneugster) [inline Mathlib/Data/Nat/Choose/Multinomial.lean]:
```suggestion
open Mathlib.Meta.Positivity Qq in
```

some of the namespaces where superfluous (`Lean Meta`)

**Review by joneugster — APPROVED** [review]
Thank you for the PR!

**Comment by joneugster** [comment]
maintainer delegate

since the comments are all about better style, nothing conceptual.

**Comment by BoltonBailey** [comment]
Seems I had to update it just now for the new positivity extension format, but I didn't change much.

**Review by joneugster — APPROVED** [review]

**Comment by joneugster** [comment]
maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
